US06969725B2
In analogy to the procedure described in example 1 f], [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester (example 34 b]) was reacted with 4-chloromethyl-5-methyl-2-(3,4,5-trimethoxy-phenyl)-oxazole (prepared from 3,4,5-trimethoxy-benzaldehyde and diacetyl monoxyme followed by treatment with POCl3 in analogy to the procedures described in examples 2 a] and b]) in the presence of cesium carbonate and potassium iodide to yield [rac]-2-ethoxy-3-{2-methyl-4-[5-methyl-2-(3,4,5-trimethoxy-phenyl)-oxazol-4-ylmethoxy]-phenyl}-propionic acid ethyl ester as yellow liquid.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 4-chloromethyl-5-methyl-2-(3,4,5-trimethoxy-phenyl)-oxazole | ClCC=1N=C(OC1C)C1=CC(=C(C(=C1)OC)OC)OC | C14H16ClNO4
reactant | 3,4,5-trimethoxy-benzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | [rac]-2-ethoxy-3-{2-methyl-4-[5-methyl-2-(3,4,5-trimethoxy-phenyl)-oxazol-4-ylmethoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=CC(=C(C(=C1)OC)OC)OC)C)OCC)=O | C28H35NO8
